US08106033B2
To a solution of 4-methoxy-3-nitrobenzyl sulfonylacetic acid (4.5 g, 15.5 mmol) in 30 mL of glacial acetic acid was added 2,4,6-trimethoxybenzaldehyde (3.05 g, 15.5 mmol) and a catalytic amount of benzylamine (0.6 mL). The resulting mixture was heated at reflux temperature for 6 h. The reaction mixture was then concentrated under reduced pressure to yield a gummy material. The gum was triturated with 2-propanol to yield a solid product. The solid product was recrystallized from a mixture of acetic acid and 2-propanol to provide the 2-((E)-2-(4-methoxy-3-nitrobenzylsulfonyl)vinyl)-1,3,5-trimethoxybenzene product in 28% yield. m.p. 186-187° C.

reactant | 4-methoxy-3-nitrobenzyl sulfonylacetic acid | 15.5 mmol, 4.5 g | COC1=C(C=C(CS(=O)(=O)CC(=O)O)C=C1)[N+](=O)[O-] | C10H11NO7S
reactant | 2,4,6-trimethoxybenzaldehyde | 15.5 mmol, 3.05 g | COC1=C(C=O)C(=CC(=C1)OC)OC | C10H12O4
reactant | benzylamine | 0.6 mL | C(C1=CC=CC=C1)N | C7H9N
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-((E)-2-(4-methoxy-3-nitrobenzylsulfonyl)vinyl)-1,3,5-trimethoxybenzene | 28% yield | COC1=C(C=C(CS(=O)(=O)/C=C/C2=C(C=C(C=C2OC)OC)OC)C=C1)[N+](=O)[O-] | C19H21NO8S
